US07459475B2
Step E: 3-[3-(2-Trifluoromethoxyphenyl)-phenyl]-1,2,4-triazole
A solution of 0.137 g (0.48 mmol) of 3-(2-trifluoromethoxyphenyl)-benzamide in 1 mL of N,N-dimethylformamide dimethyl acetal was heated at 120° C. for 2 h at which time the reaction was concentrated in vacuo. To this material in 2.3 mL of acetic acid was added 0.028 g (0.55 mmol) of hydrazine hydrate and the reaction mixture was heated at 90° C. for 2 h. The reaction mixture was then concentrated and partitioned between EtOAc and saturated NaHCO3 solution. The organic fraction was washed with brine, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, 30:1, 9:1, 3:1 successively CH2Cl2: acetone) to give the title compound. 1H NMR (CD3OD) (δ, ppm): 8.32 (s, 1H), 8.06 (s, 1H), 7.98 (m, 1H), 7.50 (m, 3H), 7.39(m, 3H). Mass Spectrum (ESI) m/e (M+1): 306.1.

reactant | 3-(2-trifluoromethoxyphenyl)-benzamide | 0.48 mmol, 0.137 g | FC(OC1=C(C=CC=C1)C=1C=C(C(=O)N)C=CC1)(F)F | C14H10F3NO2
reactant | hydrazine hydrate | 0.55 mmol, 0.028 g | O.NN
reactant | N,N-dimethylformamide dimethyl acetal | 1 mL | COC(N(C)C)OC | C5H13NO2
solvent | acetic acid | 2.3 mL | C(C)(=O)O | C2H4O2
product | 3-[3-(2-Trifluoromethoxyphenyl)-phenyl]-1,2,4-triazole | FC(OC1=C(C=CC=C1)C=1C=C(C=CC1)C1=NNC=N1)(F)F | C15H10F3N3O
